US09085583B2
To a cooled (0° C.) solution of methyl 2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (1.02 g, 5.36 mmol) in N,N-dimethylformamide (20 mL) was added sodium hydride (60% w/w, 236 mg, 5.90 mmol). The resultant mixture was stirred for 15 minutes. Then (1-bromoethyl)benzene (2.00 g, 10.8 mmol) was added and the reaction was allowed to warm to room temperature. The reaction was maintained at ambient temperature for 12 hours. The reaction mixture was poured into saturated ammonium chloride solution (100 mL) with stirring. The mixture was extracted with ethyl acetate (200 mL×2) and the combined organic phase was washed with brine, dried over magnesium sulfate, filtered, and concentrated to give crude product which was purified by column chromatography (petroleum ether/ethyl acetate=20:1) to afford methyl 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (500 mg, 31.7%) as a viscous oil. 1H NMR (300 MHz, CD3OD): δ 8.38-8.35 (m, 1H), 8.25-8.23 (m, 1H), 7.30-7.14 (m, 6H), 6.55-6.48 (m, 1H), 3.88 (s, 3H), 2.54 (s, 3H), 2.02 (d, J=7.2 Hz, 3H).

reactant | methyl 2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 5.36 mmol, 1.02 g | CC1=C(C=2C(=NC=CC2)N1)C(=O)OC | C10H10N2O2
reactant | sodium hydride | 5.90 mmol, 236 mg | [H-].[Na+]
reactant | (1-bromoethyl)benzene | 10.8 mmol, 2.00 g | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | methyl 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 500 mg, 31.7% | CC1=C(C=2C(=NC=CC2)N1C(C)C1=CC=CC=C1)C(=O)OC | C18H18N2O2
